US09085583B2
To a pyrex vial was added tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (2.491 g, 10.72 mmol) and cesium carbonate (4.54 g, 13.94 mmol). The atmosphere in the vial was vac/purged 3× with N2 then DMF (24 mL) and methyl 2-bromopropanoate (2.393 ml, 21.45 mmol) were added. The reaction was mixed at ambient temperature overnight. The reaction was poured into half-saturated brine and extracted with EtOAc. The combined organic layer was washed 1× each with water then brine, dried over Na2SO4, filtered, deposited onto silica gel and purified by CC (Biotage, 100 g column) using 25% EtOAc in Hex (6 CV) then 50% (6 CV) as eluent to provide (±)-tert-butyl 1-(1-methoxy-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (2.132 g, 64%). LRMS (M+H+) m/z: calcd 319.37. found 319.2.

reactant | tert-butyl 2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 10.72 mmol, 2.491 g | CC1=C(C=2C(=NC=CC2)N1)C(=O)OC(C)(C)C | C13H16N2O2
reactant | cesium carbonate | 13.94 mmol, 4.54 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 24 mL | CN(C)C=O | C3H7NO
reactant | methyl 2-bromopropanoate | 21.45 mmol, 2.393 ml | BrC(C(=O)OC)C | C4H7BrO2
solvent | brine | [Cl-].[Na+].O
product | (±)-tert-butyl 1-(1-methoxy-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 2.132 g, 64% | COC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)=O | C17H22N2O4
